### PR TITLE
refactor: change memory-effects theorem to a quantifier-free statement

### PR DESCRIPTION
**Pull request by alexkeizer**
### Description:

Changes the memory effect proof to be of type `<currentState>.mem = <trace of memory writes>.mem`, instead of the quantified statement that the result of reading from memory at any bytes and any address of either state agrees.

* To keep aggregation working with the new statement, we had to add `memory_rules` to the simpsets that are used by sym_n.
* This meant we had to enhance `memory_rules` to do, e.g., read-over-write reasoning, and
* We had to change the `s[base, n]` notation to desugar into `s.mem.read_bytes ..`

### Testing:

What tests have been run? Did `make all` succeed for your changes? Was
conformance testing successful on an Aarch64 machine?

Yes

### License:

By submitting this pull request, I confirm that my contribution is
made under the terms of the Apache 2.0 license.

### CODE REVIEW

**Comment by alexkeizer** [comment]
@bollu I touched some memory lemmas here, care to review

**Comment by alexkeizer** [comment]
All errors introduced by the merge of main should now be fixed

File: Arm/Memory/MemoryProofs.lean [hunk 1]
```diff
@@ -34,32 +55,39 @@ theorem mem_separate_preserved_second_start_addr_add_one
...
-                     Nat.succ_ne_zero, not_false_eq_true, ne_eq,
-                     write_mem_bytes, Nat.add_eq, Nat.add_zero]
-      rw [n_ih]
-      · rw [read_mem_of_write_mem_different h']
-      · omega
-      · rw [addr_add_one_add_m_sub_one m addr2 hn hn1]
-        rw [mem_separate_preserved_second_start_addr_add_one hn hn1 h]
-      · omega
-  done
+theorem Memory.read_write_bytes_different (hn1 : n ≤ 2^64)
```
Comment (bollu) [inline Arm/Memory/MemoryProofs.lean:58]: I am not sure what the diff is, but LGTM regardless

File: Proofs/AES-GCM/GCMGmultV8Sym.lean [hunk 2]
```diff
@@ -89,37 +89,17 @@ theorem gcm_gmult_v8_program_run_27 (s0 sf : ArmState)
...
-      Memory.read_bytes 256 (r (StateField.GPR 1#5) s0) s0.mem = HTable →
-      mem_subset' (r (StateField.GPR 1#5) s0) 256 (r (StateField.GPR 1#5) s0) 256 →
-        Memory.read_bytes 256 (r (StateField.GPR 1#5) s0) s0.mem =
-          HTable.extractLsBytes (BitVec.toNat (r (StateField.GPR 1#5) s0) - BitVec.toNat (r (StateField.GPR 1#5) s0)) 256
-
-    simp_mem; rfl
-    -/
-    rw [Memory.read_bytes_write_bytes_eq_read_bytes_of_mem_separate']
-    simp_mem
+  · simp_mem; rfl
```
Comment (bollu) [inline Proofs/AES-GCM/GCMGmultV8Sym.lean:102]:
```suggestion
  · simp_mem; rfl
```

Nice, do you know what / how this got fixed?

File: Tactics/Aggregate.lean [hunk 3]
```diff
@@ -30,6 +30,7 @@ def aggregate (axHyps : Array LocalDecl) (location : Location)
 
     let config := simpConfig?.getD aggregate.defaultSimpConfig
     let (ctx, simprocs) ← LNSymSimpContext
+        (noIndexAtArgs := false)
```
Comment (bollu) [inline Tactics/Aggregate.lean:33]:
```suggestion
        -- https://github.com/leanprover/lean4/blob/94b1e512da9df1394350ab81a28deca934271f65/src/Lean/Meta/DiscrTree.lean#L371
        -- refines the discrimination tree to also index applied functions. 
        (noIndexAtArgs := false)```

**Review by bollu — APPROVED** [review]
LGTM!

File: Proofs/AES-GCM/GCMGmultV8Sym.lean [hunk 4]
```diff
@@ -89,37 +89,17 @@ theorem gcm_gmult_v8_program_run_27 (s0 sf : ArmState)
...
   -- ^^ Still needed, because `gcm_gmult_v8_program.min` is somehow
   --    unable to be reflected
+
   sym_n 27
   -- Epilogue
   simp only [←Memory.mem_eq_iff_read_mem_bytes_eq] at *
   simp only [memory_rules] at *
   sym_aggregate
+
+  -- stop
```
Comment (alexkeizer) [inline Proofs/AES-GCM/GCMGmultV8Sym.lean:99]:
```suggestion
```

File: Proofs/AES-GCM/GCMGmultV8Sym.lean (hunk 2 above)
Comment (alexkeizer) [reply Proofs/AES-GCM/GCMGmultV8Sym.lean:102]: I'm not sure, but I imagine it has to do with the fact that `memory_rules` get applied automatically now

File: Arm/Memory/MemoryProofs.lean (hunk 1 above)
Comment (alexkeizer) [reply Arm/Memory/MemoryProofs.lean:58]: Instead of proving a result about `read_mem` and `write_mem_bytes`, we prove a result about the equivalent `Memory.read` and `Memory.read_bytes`, and transport that proof to get the original statement also.

File: Arm/Syntax.lean [hunk 5]
```diff
@@ -10,10 +10,10 @@ import Arm.Memory.Separate
 
 namespace ArmStateNotation
 
-/-! We build a notation for `read_mem_bytes $n $base $s` as `$s[$base, $n]` -/
+/-! We build a notation for `$s.mem.read_bytes $n $base $s` as `$s[$base, $n]` -/
```
Comment (shigoel) [inline Arm/Syntax.lean:13]: This means that `read/write_mem_bytes` can be thrown away, right, because a user will essentially type in `read/write_bytes` whenever they use this notation?

File: Proofs/AES-GCM/GCMGmultV8Sym.lean [hunk 6]
```diff
@@ -89,37 +89,15 @@ theorem gcm_gmult_v8_program_run_27 (s0 sf : ArmState)
...
-      Memory.read_bytes 256 (r (StateField.GPR 1#5) s0) s0.mem = HTable →
-      mem_subset' (r (StateField.GPR 1#5) s0) 256 (r (StateField.GPR 1#5) s0) 256 →
-        Memory.read_bytes 256 (r (StateField.GPR 1#5) s0) s0.mem =
-          HTable.extractLsBytes (BitVec.toNat (r (StateField.GPR 1#5) s0) - BitVec.toNat (r (StateField.GPR 1#5) s0)) 256
-
-    simp_mem; rfl
-    -/
-    rw [Memory.read_bytes_write_bytes_eq_read_bytes_of_mem_separate']
-    simp_mem
+  · simp_mem; rfl
```
Comment (shigoel) [inline Proofs/AES-GCM/GCMGmultV8Sym.lean:100]: Nice!

File: Arm/Syntax.lean (hunk 5 above)
Comment (shigoel) [reply Arm/Syntax.lean:13]: If that's the case, let's just throw them away instead of adding to the confusion

**Comment by shigoel** [comment]
@alexkeizer LGTM, modulo one comment above.

File: Arm/Syntax.lean (hunk 5 above)
Comment (alexkeizer) [reply Arm/Syntax.lean:13]: Yes, except that `read_mem_bytes` is currently not directly defined in term of `Memory.read_bytes`, so I didn't want to touch that any more than necessary. Let's punt this change to a follow-up PR?
